US07432287B2
Preparation of 3-(6-methanesulfonylpyridin-3-yloxy)-5-(1-methoxymethyl-propoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide
The compound of Production Example 129 was obtained as a colorless amorphous substance using 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester, 5-bromo-2-methanesulfonylpyridine, (2S)-1-methoxy-2-hydroxybutane and 3-amino-1-methyl-1H-pyrazole, by the same method as in Production Example 117, a corresponding method, or a combination thereof with an ordinary method.

reactant | 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)OCOC)=O | C10H12O5
reactant | 5-bromo-2-methanesulfonylpyridine | BrC=1C=CC(=NC1)S(=O)(=O)C | C6H6BrNO2S
reactant | (2S)-1-methoxy-2-hydroxybutane | COC[C@H](CC)O | C5H12O2
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
product | 3-(6-methanesulfonylpyridin-3-yloxy)-5-(1-methoxymethyl-propoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC(CC)COC | C22H26N4O6S
